US05612342
1-[4-[2-[4-(6-Chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethoxy]-3-methoxyphenyl]-ethanone
A stirred mixture of 6-chloro-3-(4-piperidinyl)-1,2 benzisoxazole (4.6 g, 19 mmol), 1-[4-(2-chloroethoxy)-3- methoxyphenyl]ethanone (4.3 g, 19 mmol), K2CO3 (2.8 g), a few crystals of KI and acetonitrile (120 ml) was refluxed for 16 hours. The reaction was filtered and the filtrate was concentrated to yield 8.0 g of yellow solid. The solid was chromatographed on a Waters Prep 500 LC (silica columns, eluting with methylene chloride/methanol, 5%). Concentration of the appropriate fractions yielded 3.2 g of a light yellow solid, which upon recrystallization from ethyl acetate afforded 2.3 g (28%) of 1-[4-[2-[4-(6-chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-3-methoxyphenyl]ethanone as a pale yellow solid, m.p. =133°-135° C.

reactant | 6-chloro-3-(4-piperidinyl)-1,2 benzisoxazole | 19 mmol, 4.6 g | ClC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13ClN2O
reactant | 1-[4-(2-chloroethoxy)-3- methoxyphenyl]ethanone | 19 mmol, 4.3 g | ClCCOC1=C(C=C(C=C1)C(C)=O)OC | C11H13ClO3
reactant | K2CO3 | 2.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 1-[4-[2-[4-(6-Chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethoxy]-3-methoxyphenyl]-ethanone | 8.0 g | ClC1=CC2=C(C(=NO2)C2CCN(CC2)CCOC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C23H25ClN2O4
